US03992398
A solution of 22.6 g of 1-sec.butyl-1-cyanohydrazine in 30 ml of dioxane isadded dropwise at room temperature, during 15 to 20 minutes, to a solution of 25 g of phosgene in 120 ml of dioxane. After completion of the addition, there is added 1 g of active charcoal and the reaction mixture is refluxed for 3 hours. After cooling to room temperature, 10 g of sodiumbicarbonate is added. After 15 hours, the mixture obtained is filtered through Hyflo for removal of the salts. The filtrate is concentrated at 70° C in vacuo, with 31.5 g of a brown oil remaining. After the addition of a solution of 8 g of sodium hydroxide in 50 ml of water, the whole is heated for 15 minutes at 90° C. After cooling to room temperature, the mixture is extracted with 75 ml of ether. After separation of the ether, the aqueous phase is neutralised with 100 ml of 2N hydrochloric acid, whereupon 1-sec.butyl-3-hydroxy-5-chloro-1,2,4-triazole precipitates firstly as oil,which coon crystallises. There is obtained 23 g (65.5% of theory) of 1-sec.butyl-3-hydroxy-5-chloro-1,2,4-triazole, m.p. 77°-79° C.

reactant | 1-sec.butyl-1-cyanohydrazine | 22.6 g | C(C)(CC)N(N)C#N | C5H11N3
reactant | phosgene | 25 g | C(=O)(Cl)Cl | CCl2O
reactant | charcoal | 1 g | C | CH4
reactant | sodiumbicarbonate | 10 g | C([O-])(O)=O.[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 1-sec.butyl-3-hydroxy-5-chloro-1,2,4-triazole | 23 g, 65.5% | C(C)(CC)N1N=C(N=C1Cl)O | C6H10ClN3O
